US07279499B2
A. Preparation of 3-bromo-2,5-bis-methoxymethoxy benzaldehyde
Add a solution of phenyllithium (7.80 mL of a 1.8 M solution in cyclohexane-Et2O (70:30), 14.04 mmol) over 15 seconds to a −78° C. solution of 1,3-dibromo-2,5-bis-methoxymethoxy-benzene (5.00 g, 14.04 mmol) in THF (100 mL). After stirring the reaction for 15 minutes, add DMF (2.17 mL, 28.08 mmol) and stir the reaction for 1 hour. Pour the reaction into H2O (150 mL) and extract with EtOAc (2×100 mL). Combine the organic extracts, wash with brine, dry (MgSO4), filter and concentrate. Purify the crude material using silica gel chromatography, eluting with Hex:EtOAc (80:20) to afford the subtitled product (3.00 g, 70%) as an oil. 1H NMR (CDCl3) δ 3.47 (s, 3H), 3.61 (s, 3H), 5.14 (s, 2H), 5.16 (s, 2H), 7.45 (d, J=3.0 Hz, 1H), 7.53 (d, J=3.1 Hz, 1H), 10.29 (s, 1H).

reactant | phenyllithium | C1(=CC=CC=C1)[Li]
reactant | 1,3-dibromo-2,5-bis-methoxymethoxy-benzene | 14.04 mmol, 5.00 g | BrC1=C(C(=CC(=C1)OCOC)Br)OCOC | C10H12Br2O4
reactant | DMF | 28.08 mmol, 2.17 mL | CN(C)C=O | C3H7NO
reactant | H2O | 150 mL | O | H2O
solvent | cyclohexane Et2O | C1CCCCC1.CCOCC
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 3-bromo-2,5-bis-methoxymethoxy benzaldehyde | 3.00 g, 70% | BrC=1C(=C(C=O)C=C(C1)OCOC)OCOC | C11H13BrO5
